US07557114B2
(d) 5-(2-Methoxy-ethoxy)-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-(2-methoxy-ethoxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. White solid. MS (m/e): 194.3 ([M+H]+, 100%).

reactant | 5-(2-methoxy-ethoxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OCCOC | C16H23NO4
reactant | hydrochloric acid | Cl | ClH
product | 5-(2-Methoxy-ethoxy)-2,3-dihydro-1H-isoindole hydrochloride | Cl.COCCOC=1C=C2CNCC2=CC1 | InChI=1S/C11H15NO2.ClH/c1-13-4-5-14-11-3-2-9-7-12-8-10(9)6-11;/h2-3,6,12H,4-5,7-8H2,1H3;1H
